US09359350B2
(1) Synthesis of methyl 3-nitro-4-(2,2,2-trifluoroacetamido)benzoate [73-1] (hereinafter referred to as a compound [73-1])
Methyl 4-aminobenzoate (1.0 g) was dissolved in trifluoroacetic acid anhydride (13 mL). Potassium nitrate (736 mg) was added at 0° C., and then the reaction mixture was stirred at room temperature for 15 hours. The reaction mixture was quenched with water, and extracted with ethyl acetate. The obtained organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure to give the titled compound (1.9 g) as a pale brown solid.

reactant | Methyl 4-aminobenzoate | 1.0 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | Potassium nitrate | 736 mg | [N+](=O)([O-])[O-].[K+]
reactant | trifluoroacetic acid anhydride | 13 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | methyl 3-nitro-4-(2,2,2-trifluoroacetamido)benzoate | 1.9 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1NC(C(F)(F)F)=O | C10H7F3N2O5
